US09126952B2
0.166 g (0.50 mmol) of 2,4-dichloro-7-morpholin-4-ylquinazoline and 1.0 ml of ammonia solution (32%) in 2.0 ml of dioxane were heated in a cem microwave at 130° C. (80 watts) for 150 min. Conventional work-up gave 0.04 g of 7-morpholin-4-yl-4-piperidin-1-ylquinazolin-2-ylamine (No. 57).

reactant | 2,4-dichloro-7-morpholin-4-ylquinazoline | 0.50 mmol, 0.166 g | ClC1=NC2=CC(=CC=C2C(=N1)Cl)N1CCOCC1 | C12H11Cl2N3O
reactant | ammonia | 1.0 ml | N | H3N
reactant | dioxane | 2.0 ml | O1CCOCC1 | C4H8O2
product | 7-morpholin-4-yl-4-piperidin-1-ylquinazolin-2-ylamine | 0.04 g | N1(CCOCC1)C1=CC=C2C(=NC(=NC2=C1)N)N1CCCCC1 | C17H23N5O
